US04304780
2-Nitro-N,N'-bis-[2-[[5-[[(2,2,2-trifluoroethyl)amino]methyl]-2-furanylmethyl]thio]ethyl]-1,1-ethenediamine
A mixture of 5-[[(2-aminoethyl)thio]methyl]-N-(2,2,2-trifluoroethyl)-2-furanmethanamine (0.83 g) and 1,1-bis-(methylthio)-2-nitroethene (0.25 g) was heated at 98°-100° for 3 hr. The gummy residue was chromatographed (silica/ethyl acetate then ethyl acetate/ethanol 9:1) and the appropriate eluate evaporated to dryness to give the title compound (0.2 g) as an oil.

reactant | 5-[[(2-aminoethyl)thio]methyl]-N-(2,2,2-trifluoroethyl)-2-furanmethanamine | 0.83 g | NCCSCC1=CC=C(O1)CNCC(F)(F)F | C10H15F3N2OS
reactant | 1,1-bis-(methylthio)-2-nitroethene | 0.25 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
product | 2-Nitro-N,N'-bis-[2-[[5-[[(2,2,2-trifluoroethyl)amino]methyl]-2-furanylmethyl]thio]ethyl]-1,1-ethenediamine | 0.2 g | [N+](=O)([O-])C=C(NCCSCC=1OC(=CC1)CNCC(F)(F)F)NCCSCC=1OC(=CC1)CNCC(F)(F)F | C22H29F6N5O4S2
